US05294612
1-Cyclohexyl-3-methyl-5-amino-1H-pyrazole-4-carboxamide (1.2 g, 5.4 mmol), 4-pyridinecarboxaldehyde (0.87 g, 8.1 mmol), toluene (125 ml) and p-toluenesulfonic acid monohydrate were combined and heated to reflux for 24 hours. The solvent was removed in vacuo and the residue was poured into water (450 ml). The obtained precipitate was collected by filtration, recrystallized from isopropanol (200 ml) and dried for 24 hours in high vacuum to afford 0.53 g (32%) of 1-cyclohexyl-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one as a cream colored solid, m.p. 292°-293° C.

reactant | 1-Cyclohexyl-3-methyl-5-amino-1H-pyrazole-4-carboxamide | 5.4 mmol, 1.2 g | C1(CCCCC1)N1N=C(C(=C1N)C(=O)N)C | C11H18N4O
reactant | 4-pyridinecarboxaldehyde | 8.1 mmol, 0.87 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 1-cyclohexyl-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 0.53 g, 32% | C1(CCCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C17H19N5O
